US05103013
Isopropyl 2-(1,3-dithietan-2-ylidene)-2-(N-phenylcarbamoyl)acetate
A solution of isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate (10 g) and aniline (3.6 ml) in methylene chloride (100 ml) was stirred at room temperature for 8 hrs. The reaction mixture was washed with 10% aqueous sodium hydroxide solution, dil-HCl and water and then evaporated to dryness. The residue solid was purified with ethyl acetate to give the titled compound as a white solid. (7.9 g, 78%).

reactant | isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate | 10 g | S1C(SC1)=C(C(=O)OC(C)C)C(=O)C(=O)OOCC | C11H14O6S2
reactant | aniline | 3.6 ml | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithietan-2-ylidene)-2-(N-phenylcarbamoyl)acetate | S1C(SC1)=C(C(=O)OC(C)C)C(NC1=CC=CC=C1)=O | C14H15NO3S2
